US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[1,1-dimethyl-2-(2,2,2-trifluoro-ethylamino)-ethyl]-1H-imidazol-4-yl}-amide
Following the procedure for Example 86, 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (diastereomer 2) was reacted with 1-[1,1-Dimethyl-2-(2,2,2-trifluoro-ethylamino)-ethyl]-1H-imidazol-4-ylamine to afford the title compound: C13 MR (100 MHz, CDCl3) 14.1, 19.5, 26.0, 28.2, 28.8, 29.8, 36.6, 38.8, 50.5, 50.8, 51.1, 51.4, 52.7, 58.6, 58.7, 60.8, 100.8, 101.0, 101.3, 104.3, 110.7, 110.8, 110.9, 118.0, 118.1, 124.2, 127.0, 131.2, 138.0, 139.8, 159.9, 172.6; MS m/z 502.2 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
reactant | 1-[1,1-Dimethyl-2-(2,2,2-trifluoro-ethylamino)-ethyl]-1H-imidazol-4-ylamine | CC(CNCC(F)(F)F)(C)N1C=NC(=C1)N | C9H15F3N4
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[1,1-dimethyl-2-(2,2,2-trifluoro-ethylamino)-ethyl]-1H-imidazol-4-yl}-amide | CC(CNCC(F)(F)F)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C24H32F5N5O
